* ngspice function block helper wrappers.
* Requires ngfuncs.cm to be loaded before parsing, e.g.:
* .control
* pre_codemodel build/ngfuncs.cm
* .endc

.subckt NG_INT_PULSE in rst out params: ic=0 gain=1 vth=0.5 vhyst=0 lo=-1e12 hi=1e12 limit_range=1e-9
aint in rst out ng_int_pulse_m
.model ng_int_pulse_m ng_int_rst(mode=0 ic={ic} gain={gain} vth={vth} vhyst={vhyst}
+ lo={lo} hi={hi} limit_range={limit_range} aw_enable=false)
.ends NG_INT_PULSE

.subckt NG_INT_RISE in rst out params: ic=0 gain=1 vth=0.5 vhyst=0 lo=-1e12 hi=1e12 limit_range=1e-9
aint in rst out ng_int_rise_m
.model ng_int_rise_m ng_int_rst(mode=1 ic={ic} gain={gain} vth={vth} vhyst={vhyst}
+ lo={lo} hi={hi} limit_range={limit_range} aw_enable=false)
.ends NG_INT_RISE

.subckt NG_INT_FALL in rst out params: ic=0 gain=1 vth=0.5 vhyst=0 lo=-1e12 hi=1e12 limit_range=1e-9
aint in rst out ng_int_fall_m
.model ng_int_fall_m ng_int_rst(mode=2 ic={ic} gain={gain} vth={vth} vhyst={vhyst}
+ lo={lo} hi={hi} limit_range={limit_range} aw_enable=false)
.ends NG_INT_FALL

.subckt NG_INT_AW_PULSE in rst out params: ic=0 gain=1 vth=0.5 vhyst=0 lo=-1e12 hi=1e12 limit_range=1e-9
aint in rst out ng_int_aw_pulse_m
.model ng_int_aw_pulse_m ng_int_rst(mode=0 ic={ic} gain={gain} vth={vth} vhyst={vhyst}
+ lo={lo} hi={hi} limit_range={limit_range} aw_enable=true)
.ends NG_INT_AW_PULSE

.subckt NG_INT_AW_RISE in rst out params: ic=0 gain=1 vth=0.5 vhyst=0 lo=-1e12 hi=1e12 limit_range=1e-9
aint in rst out ng_int_aw_rise_m
.model ng_int_aw_rise_m ng_int_rst(mode=1 ic={ic} gain={gain} vth={vth} vhyst={vhyst}
+ lo={lo} hi={hi} limit_range={limit_range} aw_enable=true)
.ends NG_INT_AW_RISE

.subckt NG_INT_AW_FALL in rst out params: ic=0 gain=1 vth=0.5 vhyst=0 lo=-1e12 hi=1e12 limit_range=1e-9
aint in rst out ng_int_aw_fall_m
.model ng_int_aw_fall_m ng_int_rst(mode=2 ic={ic} gain={gain} vth={vth} vhyst={vhyst}
+ lo={lo} hi={hi} limit_range={limit_range} aw_enable=true)
.ends NG_INT_AW_FALL

.subckt NG_INT_MOD in out params: ic=0 gain=1 modulus=1 lo=-1e12 hi=1e12 limit_range=1e-9
aint in out ng_int_mod_m
.model ng_int_mod_m ng_int_mod(ic={ic} gain={gain} modulus={modulus}
+ lo={lo} hi={hi} limit_range={limit_range})
.ends NG_INT_MOD

.subckt NG_SAMPLE_RISE in trig out params: ic=0 vth=0.5 vhyst=0
asamp in trig out ng_sample_rise_m
.model ng_sample_rise_m ng_sample(edge=1 ic={ic} vth={vth} vhyst={vhyst})
.ends NG_SAMPLE_RISE

.subckt NG_SAMPLE_FALL in trig out params: ic=0 vth=0.5 vhyst=0
asamp in trig out ng_sample_fall_m
.model ng_sample_fall_m ng_sample(edge=2 ic={ic} vth={vth} vhyst={vhyst})
.ends NG_SAMPLE_FALL

.subckt NG_DDT in out params: gain=1 out_offset=0 lo=-1e12 hi=1e12 limit_range=1e-9
addt in out ng_ddt_m
.model ng_ddt_m d_dt(gain={gain} out_offset={out_offset}
+ out_lower_limit={lo} out_upper_limit={hi} limit_range={limit_range})
.ends NG_DDT

* Analog smooth comparator. Required: vsmooth>0, trise>0, tfall>0,
* and vhigh>vlow. Propagation delay and hysteresis are not supported.
.subckt NG_COMP_SMOOTH_DIFF inp inn out params: vlow=0 vhigh=1 voffset=0 vsmooth=1m trise=1n tfall=1n
Btarget ng_comp_target 0 V={vlow + 0.5*(vhigh-vlow)*(1 + tanh(2.197224577*(V(inp)-V(inn)-voffset)/vsmooth))}
aslew ng_comp_target out ng_comp_slew_m
.model ng_comp_slew_m slew(rise_slope={0.8*(vhigh-vlow)/trise}
+ fall_slope={0.8*(vhigh-vlow)/tfall})
.ends NG_COMP_SMOOTH_DIFF

* Single-ended form with an instance-local reference voltage.
.subckt NG_COMP_SMOOTH_SE in out params: vth=0 vlow=0 vhigh=1 vsmooth=1m trise=1n tfall=1n
Vthreshold ng_comp_vth 0 dc {vth}
Xdiff in ng_comp_vth out NG_COMP_SMOOTH_DIFF params: vlow={vlow} vhigh={vhigh}
+ voffset=0 vsmooth={vsmooth} trise={trise} tfall={tfall}
.ends NG_COMP_SMOOTH_SE
